US04107326
1-Benzyl-3-(2,4-dichlorobenzylideneamino)guanidine
A 10.0 g. portion of 1-amino-3-benzylguanidine hydroiodide in a mixture of 100 ml. each of diethyl ether, hexane and methylene chloride is shaken with 10 ml. of 5N NaOH. A 5.98 g. portion of 2,4-dichlorobenzaldehyde is added and and the mixture is shaken for 15 minutes. The organic layer is washed with saturated aqueous sodium chloride, passed through hydrous sodium magnesium silicate and concentrated to dryness under reduced pressure. The residue is crystallized from methylene chloride-hexane, giving the desired product as cream colored crystals, m.p. 139°-141° C.

reactant | 1-amino-3-benzylguanidine hydroiodide | I.NNC(=N)NCC1=CC=CC=C1
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | NaOH | 5N | [OH-].[Na+]
reactant | 2,4-dichlorobenzaldehyde | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | 1-Benzyl-3-(2,4-dichlorobenzylideneamino)guanidine | C(C1=CC=CC=C1)NC(=N)NN=CC1=C(C=C(C=C1)Cl)Cl | C15H14Cl2N4
